US04920219
A 0.1 molar solution of boron tribromide in methylene chloride (600 ml) is added to stirred suspension of methyl 2-methoxy-4-amino-5-chlorobenzoate (37 g) in methylene chloride (500 ml). After stirring for 20 hrs, the mixture is poured into ice water, and the precipitate remaining in the reaction container is washed in the ice water mixture with a solution of 5.5N NaOH (600 mls). The aqueous layer is separated and acidified to pH3. The resulting precipitate is filtered, washed with water and dried affording 4-amino-5-chlorosalicylic acid which is used directly in the next step.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methyl 2-methoxy-4-amino-5-chlorobenzoate | 37 g | COC1=C(C(=O)OC)C=C(C(=C1)N)Cl | C9H10ClNO3
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-5-chlorosalicylic acid | NC=1C=C(C(C(=O)O)=CC1Cl)O | C7H6ClNO3
